US07947718B2
(4-Isopropyl-piperazin-1-yl)-[2-(2-piperidin-1-yl-ethylamino)-pyridin-4-yl]-methanone
(2-Chloro-pyridin-4-yl)-(4-isopropyl-piperazin-1-yl)-methanone. The title compound was prepared in a manner similar to that described in Step A of Example 9 using 2-chloro-isonicotinic acid and 1-isopropyl-piperazine.

reactant | (2-Chloro-pyridin-4-yl)-(4-isopropyl-piperazin-1-yl)-methanone | ClC1=NC=CC(=C1)C(=O)N1CCN(CC1)C(C)C | C13H18ClN3O
reactant | 2-chloro-isonicotinic acid | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | 1-isopropyl-piperazine | C(C)(C)N1CCNCC1 | C7H16N2
product | (4-Isopropyl-piperazin-1-yl)-[2-(2-piperidin-1-yl-ethylamino)-pyridin-4-yl]-methanone | C(C)(C)N1CCN(CC1)C(=O)C1=CC(=NC=C1)NCCN1CCCCC1 | C20H33N5O
